US07576215B2
3-[3-(4-METHOXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL
The title compound was prepared from [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone and (4-Methoxy-phenyl)-acetaldehyde following the procedure of Example 457: MS (ESI) m/z 396; HRMS: calcd for C23H16F3NO2+H+, 396.12059; found (ESI, [M+H]+), 396.1195.

reactant | [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C14H10F3NO2
reactant | (4-Methoxy-phenyl)-acetaldehyde | COC1=CC=C(C=C1)CC=O | C9H10O2
product | 3-[3-(4-METHOXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL | COC1=CC=C(C=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO2
